US08242125B2
61-B. (±)-4-(1H-indol-5-yloxy)-5-methyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester
To a solution of 5-methyl-4-oxo-3,4,5,7-tetrahydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester (1 g, 3.98 mmol) in acetonitrile (40 ml), PyBOP (2.69 g, 5.17 mmol) is added, followed by DBU (1.200 ml, 7.96 mmol). After 20 min, 5-hydroxyindole (1.060 g, 7.96 mmol) is added. The reaction is left stirring at rt overnight. The reaction mixture is then evaporated, the crude product is added to a silica gel column and is eluted with heptane/ethyl acetate (100:0 to 60:40) to give the title compound. MS (ESI) m/z 367.05 (M+1).

reactant | 5-methyl-4-oxo-3,4,5,7-tetrahydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | 3.98 mmol, 1 g | C(C)(C)(C)OC(=O)N1CC=2N=CNC(C2C1C)=O | C12H17N3O3
reactant | PyBOP | 5.17 mmol, 2.69 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DBU | 7.96 mmol, 1.200 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-hydroxyindole | 7.96 mmol, 1.060 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (±)-4-(1H-indol-5-yloxy)-5-methyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1C)OC=1C=C2C=CNC2=CC1 | C20H22N4O3
